US08466296B2
K. Preparation of ethyl{(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetate
A 100 mL round bottomed flask equipped with a magnetic stir bar is charged {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetonitrile (5.00 g, 14.5 mmol) and 95% ethanol (7.5 mL). To the stirred solution is added 95% sulfuric acid (5.0 mL, 89.0 mmol). The flask is immersed in an oil bath and heated to 75° C. for 4 days. The solution is cooled to room temperature and absolute ethanol (42.5 mL) is added. The reaction mixture is adjusted to pH 10 by the addition of 28% ammonium hydroxide (˜12 mL), and the resulting slurry is stirred for 3 h. The precipitate is removed by vacuum filtration and the volatiles are evaporated giving crude title compound (6.02 g, 106%) as a red syrup. LCMS (Basic Method): 2.33 min, 387 (M+H)+.

reactant | {(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetonitrile | 14.5 mmol, 5.00 g | C(C1=CC=CC=C1)NC[C@@H]1OC2=C(OC1)C=CC(=C2CC#N)[N+](=O)[O-] | C18H17N3O4
reactant | sulfuric acid | 89.0 mmol, 5.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | ˜12 mL | [OH-].[NH4+]
reactant | ethanol | 42.5 mL | C(C)O | C2H6O
reactant | ethanol | 7.5 mL | C(C)O | C2H6O
product | ethyl{(3S)-3-[(benzylamino)methyl]-6-nitro-2,3-dihydro-1,4-benzodioxin-5-yl}acetate | 6.02 g, 106% | C(C)OC(CC1=C(C=CC=2OC[C@@H](OC21)CNCC2=CC=CC=C2)[N+](=O)[O-])=O | C20H22N2O6
